US05025025
Methyl 8-(p-chlorophenylsulfonamido)-6-(3-pyridylmethyl)-octanoate (0.3 g) is dissolved in 10 mL of methanol, 20 mL of 1N aqueous NaOH added and the reaction is stirred at room temperature overnight. The methanol is evaporated off, water added and the mixture extracted with ethyl acetate. The aqueous layer is acidified to pH 6.1 and extracted with ethyl acetate. The ethyl acetate extract is dried over magnesium sulfate, filtered and concentrated to give 8-(p-chlorophenylsulfonamido)-6-(3-pyridylmethyl)-octanoic acid, NMR (CDCl3): delta 7.7 (d,2H), 7.4 (d,2H), 2.9 (m,2H).

reactant | Methyl 8-(p-chlorophenylsulfonamido)-6-(3-pyridylmethyl)-octanoate | 0.3 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC(CCCCC(=O)OC)CC=1C=NC=CC1 | C21H27ClN2O4S
reactant | NaOH | 1N, 20 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 8-(p-chlorophenylsulfonamido)-6-(3-pyridylmethyl)-octanoic acid | ClC1=CC=C(C=C1)S(=O)(=O)NCCC(CCCCC(=O)O)CC=1C=NC=CC1 | C20H25ClN2O4S
